US04460579
A solution of (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester (9 mmole) in dry isopropanol (12 ml.) under nitrogen is treated with sodium bicarbonate (2.25 mmole) followed by ethyl-2-oxo-4-phenylbutyrate (9.3 g., 45 mmole) dissolved in isopropanol (8 ml.). To the resulting suspension is added powdered 3 A° molecular sieves (8 g.). The reaction mixture is stirred for one hour while the pH is maintained at around 7.0. Next a solution of sodium cyanoborohydride (1.13 g., 18 mmole) in isopropanol (14 ml.) is added incrementally over a 5 hour period while continuing to maintain neutral pH. The reaction mixture is then stirred overnight at room temperature, then filtered (celite), concentrated in vacuo, and partitioned between ether and water. Normal work up of the organic extract followed by column chromatography on silica gel yields (R)-dihydro-5-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester as a mixture of diastereomers.

reactant | (R)-dihydro-5-amino-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester | 9 mmole | NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O | C17H26N2O3SSi
reactant | sodium bicarbonate | 2.25 mmole | C([O-])(O)=O.[Na+]
reactant | ethyl-2-oxo-4-phenylbutyrate | 45 mmole, 9.3 g | C(C)OC(C(CCC1=CC=CC=C1)=O)=O | C12H14O3
reactant | sodium cyanoborohydride | 18 mmole, 1.13 g | C(#N)[BH3-].[Na+]
solvent | isopropanol | 12 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 14 ml | C(C)(C)O | C3H8O
product | (R)-dihydro-5-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O | C29H40N2O5SSi
